US08114902B2
N-(5-{2-[4-(5,5-dimethyl-1,3,2-dioxaborinan-2-yl)phenyl]ethyl}-2,2-dimethyl-1,3-dioxan-5-yl)acetamide
A solution of N-{5-[2-(4-bromophenyl)ethyl]-2,2-dimethyl-1,3-dioxan-5-yl}acetamide (7.13 g) of Reference Example 5, bis(neopentyl glycolato)diboron (4.97 g), potassium acetate (5.89 g) and dichlorobis(tricyclohexylphosphine)palladium (II) (738 mg) in 1,4-dioxane (80 mL) was stirred at 100° C. for 6 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The mixture was washed with water and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residual crude crystals were suspended in water and collected by filtration to give the title compound (7.33 g) as brown crystals.

reactant | N-{5-[2-(4-bromophenyl)ethyl]-2,2-dimethyl-1,3-dioxan-5-yl}acetamide | 7.13 g | BrC1=CC=C(C=C1)CCC1(COC(OC1)(C)C)NC(C)=O | C16H22BrNO3
reactant | bis(neopentyl glycolato)diboron | 4.97 g | B1(OCC(CO1)(C)C)B2OCC(CO2)(C)C | C10H20B2O4
reactant | potassium acetate | 5.89 g | C(C)(=O)[O-].[K+]
reactant | Water | O | H2O
solvent | 1,4-dioxane | 80 mL | O1CCOCC1 | C4H8O2
catalyst | dichlorobis(tricyclohexylphosphine)palladium (II) | 738 mg | C1CCC(CC1)P(C2CCCCC2)C3CCCCC3.C1CCC(CC1)P(C2CCCCC2)C3CCCCC3.Cl[Pd]Cl
product | N-(5-{2-[4-(5,5-dimethyl-1,3,2-dioxaborinan-2-yl)phenyl]ethyl}-2,2-dimethyl-1,3-dioxan-5-yl)acetamide | 7.33 g | CC1(COB(OC1)C1=CC=C(C=C1)CCC1(COC(OC1)(C)C)NC(C)=O)C | C21H32BNO5
